US05232948
To a solution of 2.63 g (12.06 mmoles) of 6-carbomethoxymethylcoumarin in 50 ml of ethanol is added 2.41 g (60.30 mmoles) of NaOH in 3 ml of H2O. The reaction mixture is heated to reflux for 8 hours after which time 40 ml (3.36 moles) of benzylbromide is added. The reaction mixture is stirred at room temperature for 12 hours after which time the reaction mixture is concentrated in vacuo. The crude product is taken up in H2O, washed with ethylacetate (2 times) and acidified to pH 3-4 with concentrated HCl. The resulting white precipitate is collected to yield cis-3-carboxyvinyl-4-benzyloxyphenylacetic acid which is used directly in the next step.

reactant | 6-carbomethoxymethylcoumarin | 12.06 mmoles, 2.63 g | C(=O)(OC)CC=1C=C2C=CC(OC2=CC1)=O | C12H10O4
reactant | NaOH | 60.30 mmoles, 2.41 g | [OH-].[Na+]
reactant | benzylbromide | 3.36 moles, 40 ml | C(C1=CC=CC=C1)Br | C7H7Br
solvent | ethanol | 50 ml | C(C)O | C2H6O
solvent | H2O | 3 ml | O | H2O
product | cis-3-carboxyvinyl-4-benzyloxyphenylacetic acid | C(=O)(O)\C=C/C=1C=C(C=CC1OCC1=CC=CC=C1)CC(=O)O | C18H16O5
